US06329380B1
2-[1-(Piperidin-4-yl)-methylamino]-4-[benzimidazol-1-yl]pyrimidine
The title compound was prepared according to the procedure described in EXAMPLE 18 starting with 2-[1-(1-benzyloxycarbonylpiperidin-4-yl)methyl-amino]-4-[benzimidazol-1-yl]pyrimidine. Partial 1H NMR (500 M, CDCl3): δ 8.59 (s, 1H); 8.33 (br s, 1H); 8.16 (br s, 1H); 7.82 (d, J=7.8 Hz, 1H); 7.34 m, 2H); 6.73 (d, J=5.5 Hz, 1H); 3.37 (dd, J=6.2, 5.9 Hz, 2H); 3.09 (d, J=11.9 Hz, 2H); 2.58 (t, J=11.9 Hz, 2H); 1.79 (d, J=10.7 Hz, 3H); 1.23 (m, 2H). Mass spectrum 350.1 (ESI, M+CH3CN+1).

reactant | 2-[1-(1-benzyloxycarbonylpiperidin-4-yl)methyl-amino]-4-[benzimidazol-1-yl]pyrimidine | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CNC1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C25H26N6O2
solvent | CH3CN | CC#N | C2H3N
product | 2-[1-(Piperidin-4-yl)-methylamino]-4-[benzimidazol-1-yl]pyrimidine | N1CCC(CC1)CNC1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C17H20N6
